2197-11-10 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2197-11-9**] 09:05 PM
   Wean off insulin gtt
   Repleted lytes
   No evidence of seizure activity
   Weaned down on vent settings
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-9**] 10:52 PM
   Acyclovir - [**2197-11-9**] 11:21 PM
   Ceftriaxone - [**2197-11-9**] 11:22 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2197-11-9**] 10:51 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-9**] 10:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-10**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 102 (97 - 109) bpm
   BP: 108/67(76) {80/60(66) - 125/76(86)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    998 mL
                                                                  1,232 mL
   PO:
             TF:
   IVF:
                                                                    998 mL
                                                                  1,232 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                    115 mL
   Urine:
                                                                    290 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                  1,119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (430 - 430) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 13 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 6 L/min
   Physical Examination
   Gen: Intubated, sedated
   Pupils: PERRL
   CV: RRR, no M/R/G
   Pulm: CTAB
   Abd: Soft, ND, BS +
   Extr: Trace edema, Pulses 2+ symmetric
   Labs / Radiology
   288 K/uL
   10.0 g/dL
   212 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.4 mEq/L
   9 mg/dL
   111 mEq/L
   141 mEq/L
   28.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2197-11-9**]  09:32 PM
                            [**2197-11-10**]  03:15 AM
   WBC
   9.6
   Hct
   28.5
   Plt
   288
   Cr
   0.7
   0.8
   Glucose
   204
   212
   Other labs: PT / PTT / INR:12.7/21.5/1.1, ALT / AST:[**11-27**], Alk Phos / T
   Bili:59/0.3, Differential-Neuts:76.6 %, Lymph:19.4 %, Mono:2.9 %,
   Eos:1.0 %, Ca++:7.1 mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Ms. [**Known lastname 3169**] is a 53-year-old woman with a history of type II DM,
   seizure disorder, HTN, PFO, TIA, remote history of viral encephalitis,
   who was admitted after being found at home with a generalized
   tonic-clonic seizure, also found to have hyperglycemia and glucosuria
   with a normal anion gap.
   .
   Plan:
   # Seizure: might be triggered by antiepileptic non-compliance,
   meningitis/encephalitis, DKA.
   - continue phenytoin 100 mg tid
   - check phenytoin level at 9:00. goal 15-20
   - EEG
   - seizure precautions
   - f/u neuro recs
   .
   # Hyperglycemia: with history of DM2. FS 500s on presentation to
   [**Hospital1 **], with ketonuria, but has never had an anion gap--could be due to
   good renal clearance of ketoacids. Arterial pH 7.47. Likely due to
   recent medication non-compliance. Also need to rule out infection.
   - ISS, f/u lytes at 9:00
   - aggressive NS resuscitation until FS < 200, after which D5 1/2 NS
   will be given
   - q1hr FS
   - q4hr chemistry
   .
   # Altered mental status: most likely due to seizure coupled with
   possible DKA. Could also be due to infections, metabolic derangements.
   LP shows elevated protein but an unremarkable WBC of 3 and glucose of
   240 do not suggest an infectious etiology; however, serum glucose was
   already elevated.
   - treat seizure and hyperglycemia as above
   - f/u HSV PCR, blood cx, urine cx
   - continue empiric CTX, vanco, acyclovir for now
   - f/u neuro recs
   .
   # Respiratory failure: from altered mental status
   -          wean vent settings now that underlying seizure and
   hyperglycemia appear resolved
   -          Attempt extubation today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:  R IJ, 2PIVs
   Presep Catheter - [**2197-11-9**] 09:05 PM
   22 Gauge - [**2197-11-9**] 09:07 PM
   20 Gauge - [**2197-11-9**] 10:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2197-11-11 07:51:00 Physician Resident Progress Note
Chief Complaint: s/p multiple seizures and DKA
   24 Hour Events:
 EEG - At [**2197-11-10**] 08:30 AM
 MAGNETIC RESONANCE IMAGING - At [**2197-11-10**] 12:00 PM
   - EEG confirmed global encephalopathy
   - MR [**Name13 (STitle) **] revealed 3-4mm L parietal SDH, Coumadin held
   - Family and PCP [**Name (NI) 167**]
   [**Name Initial (PRE) **] Restarted on SC Insulin
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-11-9**] 11:22 PM
   Vancomycin - [**2197-11-10**] 08:00 AM
   Acyclovir - [**2197-11-11**] 12:01 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2197-11-11**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-11**] 07:34 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt is sedated at this time and unable to give ROS
   Flowsheet Data as of  [**2197-11-11**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 100 (94 - 112) bpm
   BP: 98/55(64) {83/44(59) - 138/71(89)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  5,819 mL
                                                                    254 mL
   PO:
             TF:
   IVF:
                                                                  5,819 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    605 mL
   Urine:
                                                                  1,925 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,894 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 543 (482 - 751) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   missing several toes
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   212 K/uL
   9.3 g/dL
   151 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   4 mg/dL
   110 mEq/L
   138 mEq/L
   26.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2197-11-9**]  09:32 PM
                            [**2197-11-10**]  03:15 AM
                            [**2197-11-10**]  07:22 AM
                            [**2197-11-10**]  08:16 AM
                            [**2197-11-10**]  02:33 PM
                             [**2197-11-11**]  04:10 AM
   WBC
   9.6
   9.0
   6.9
   Hct
   28.5
   27.3
   26.3
   Plt
   288
   261
   212
   Cr
   0.7
   0.8
   0.7
   0.6
   0.6
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 3200**]80
   78
   151
   Other labs: PT / PTT / INR:12.7/41.6/1.1, ALT / AST:[**11-27**], Alk Phos / T
   Bili:59/0.3, Differential-Neuts:76.6 %, Lymph:19.4 %, Mono:2.9 %,
   Eos:1.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DIABETIC KETOACIDOSIS (DKA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Ms. [**Known lastname 3169**] is a 53-year-old woman with a history of type II DM,
   seizure disorder, HTN, PFO, TIA, remote history of viral encephalitis,
   who was admitted after being found at home with a generalized
   tonic-clonic seizure, also found to have hyperglycemia and glucosuria
   with a normal anion gap.
   .
   Plan:
   # Seizure: might be triggered by antiepileptic non-compliance,
   meningitis/encephalitis, DKA, or SDH.
   - continue phenytoin 100 mg IV Q 8hrs
 corrected level this am 25
   - check phenytoin level tomorrow am
   - EEG results pending
   - seizure precautions
   - f/u neuro recs
   - F/U final read MRI. Prelim read- tiny subdural left parietal region
   without mass effect on the underlying brain. No evidence for acute
   ischemia.
   .
   # Hyperglycemia: with history of DM2. FS 500s on presentation to
   [**Hospital1 **], with ketonuria, but has never had an anion gap (now 5)--could
   be due to good renal clearance of ketoacids. Arterial pH 7.47. Likely
   due to recent medication non-compliance. Also need to rule out
   infection.
   - ISS
   - Cont NS at 150cc/hr for now
   - FS per protocol.
   .
   # Altered mental status: most likely due to seizure coupled with
   possible DKA. SDH could be from activity during seizure or could have
   preceded AMS.  Could also be due to infections, metabolic derangements.
   LP shows elevated protein but an unremarkable WBC of 3 and glucose of
   240 do not suggest an infectious etiology; however, serum glucose was
   already elevated.
   - treat seizure and hyperglycemia as above
   - f/u HSV PCR, blood cx, urine cx
   - continue acyclovir for now
   - f/u neuro recs
   .
   # Respiratory failure: from altered mental status
   -          Pt currently doing well on PS 8, PEEP 5
   -          Attempt extubation today- will need to lighten sedation
   prior to this
   FEN- IVF, replete PRN
   PPX- Hep SC, pneumoboots
   Access- RIJ
   Communication- with son, [**Name (NI) 135**] [**Name (NI) 3169**]
   [**Last Name (NamePattern1) 36**]- Full
   ICU Care
   Nutrition: NPO for now, IVF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2197-11-9**] 09:05 PM
   22 Gauge - [**2197-11-9**] 09:07 PM
   20 Gauge - [**2197-11-9**] 10:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2197-11-12 07:51:00 Physician Resident Progress Note
Chief Complaint: s/p seizures, DKA
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2197-11-11**] 11:03 AM
   -Stopped fentanyl and versed in am and extubated around noon. ABG post
   extubation looks good. Pt remains somnolent but interactive and
   responsive, resp status stable
   - Dilantin level adj for albumin this am 25. Decr dilantin from 100 TID
   to 100 [**Hospital1 7**]
   -Per neuro- need rpt head CT on Mon to monitor SDH
   - hsv pcr still pending
   - were unable to get sputum culture prior to extubation
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-11-9**] 11:22 PM
   Vancomycin - [**2197-11-10**] 08:00 AM
   Acyclovir - [**2197-11-12**] 12:15 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2197-11-11**] 03:16 PM
   Dilantin - [**2197-11-11**] 03:55 PM
   Famotidine (Pepcid) - [**2197-11-11**] 07:33 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-12**] 12:01 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2197-11-12**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 96 (95 - 117) bpm
   BP: 118/61(75) {92/32(58) - 126/67(85)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,255 mL
                                                                  1,730 mL
   PO:
             TF:
   IVF:
                                                                  3,230 mL
                                                                  1,730 mL
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                  1,315 mL
   Urine:
                                                                  2,815 mL
                                                                  1,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 669 (500 - 669) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/43/162/26/1
   Ve: 9.9 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2. Knows is in hospital not which one.  Does
   not know year or date., Movement: Not assessed, Tone: Normal
   Labs / Radiology
   199 K/uL
   8.4 g/dL
   139 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.0 mEq/L
   3 mg/dL
   106 mEq/L
   140 mEq/L
   22.9 %
   4.4 K/uL
        [image002.jpg]
                            [**2197-11-9**]  09:32 PM
                            [**2197-11-10**]  03:15 AM
                            [**2197-11-10**]  07:22 AM
                            [**2197-11-10**]  08:16 AM
                            [**2197-11-10**]  02:33 PM
                             [**2197-11-11**]  04:10 AM
                             [**2197-11-11**]  01:52 PM
                             [**2197-11-11**]  02:29 PM
                             [**2197-11-12**]  04:28 AM
   WBC
   9.6
   9.0
   6.9
   6.7
   4.4
   Hct
   28.5
   27.3
   26.3
   26.6
   22.9
   Plt
   288
   261
   212
   220
   199
   Cr
   0.7
   0.8
   0.7
   0.6
   0.6
   0.5
   0.5
   TCO2
   23
   28
   Glucose
   [**Telephone/Fax (3) 3200**]80
   78
   151
   55
   139
   Other labs: PT / PTT / INR:12.7/25.6/1.1, ALT / AST:[**11-27**], Alk Phos / T
   Bili:59/0.3, Differential-Neuts:76.6 %, Lymph:19.4 %, Mono:2.9 %,
   Eos:1.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 SUBDURAL HEMORRHAGE (SDH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DIABETIC KETOACIDOSIS (DKA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Ms. [**Known lastname 3169**] is a 53-year-old woman with a history of type II DM,
   seizure disorder, HTN, PFO, TIA, remote history of viral encephalitis,
   who was admitted after being found at home with a generalized
   tonic-clonic seizure, also found to have hyperglycemia and glucosuria
   with a normal anion gap.
   .
   Plan:
   # Seizure: might be triggered by antiepileptic non-compliance,
   meningitis/encephalitis, DKA, or SDH.
   - continue phenytoin 100 mg IV Q 12 hrs
 corrected level yest 25.
   Awaiting results of todays labs
   - EEG results pending
   - seizure precautions
   - f/u neuro recs- will need rpt CT head on Mon to f/u SDH
   - F/U final read MRI. Prelim read- tiny subdural left parietal region
   without mass effect on the underlying brain. No evidence for acute
   ischemia.
   .
   # Hyperglycemia: with history of DM2. FS 500s on presentation to
   [**Hospital1 **], with ketonuria, but has never had an anion gap (now 8)--could
   be due to good renal clearance of ketoacids. Arterial pH 7.47. Likely
   due to recent medication non-compliance. Also need to rule out
   infection.
   - ISS
   - Cont D5NS at 150cc/hr for now
   - FS per protocol.
   .
   # Altered mental status: most likely due to seizure coupled with
   possible DKA. SDH could be from activity during seizure or could have
   preceded AMS.  Could also be due to infections, metabolic derangements.
   LP shows elevated protein but an unremarkable WBC of 3 and glucose of
   240 do not suggest an infectious etiology; however, serum glucose was
   already elevated.
   - treat seizure and hyperglycemia as above
   - f/u HSV PCR, blood cx, urine cx
   - continue acyclovir for now
   - f/u neuro recs
   .
   # Respiratory failure: from altered mental status. Pt successfully
   extubated yesterday and doing well on RA. Will continue to monitor.
   FEN- IVF, replete PRN- will discuss advancing diet today
   PPX- Hep SC, pneumoboots
   Access- RIJ
   Communication- with son, [**Name (NI) 135**] [**Name (NI) 3169**]
   [**Last Name (NamePattern1) 36**]- Full
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2197-11-9**] 09:05 PM
   22 Gauge - [**2197-11-9**] 09:07 PM
   20 Gauge - [**2197-11-9**] 10:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor